US07192968B2
After 4,5-bis(bromomethyl)thiazole (600 mg) synthesized in 1) of Referential Example 109 was dissolved in ethanol (20 ml), and 1,2-dimethylhydrazine hydrochloride (294 mg) was added under ice cooling, triethylamine (1.23 ml) was added at a time, and the mixture was stirred for 30 minutes at room temperature and 30 minutes at 50° C. The solvent was distilled off, and the residue was purified by column chromatography on silica gel (methanol:dichloromethane=1:19) to obtain 5,6-dimethyl-4,5,6,7-tetrahydrothiazolo[4,5-d]-pyridazine (90 mg) as a colorless oil.

reactant | 4,5-bis(bromomethyl)thiazole | 600 mg | BrCC=1N=CSC1CBr | C5H5Br2NS
reactant | 1,2-dimethylhydrazine hydrochloride | 294 mg | Cl.CNNC
reactant | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5,6-dimethyl-4,5,6,7-tetrahydrothiazolo[4,5-d]-pyridazine | 90 mg | CN1N(CC2=C(C1)N=CS2)C | C7H11N3S
